US09226922B2
Malonic acid bis(2,4,6-trichlorophenyl) ester (1.4 g, 3.05 mmol) and ethyl 3-amino-4-methylpent-2-enoate (480 mg, 3.05 mmol) in bromobenzene (5 mL) was heated at 155° C. for 45 min. The reaction mixture was diluted with EtOAc/Et2O then concentrated in vacuo until a solid crashed out of solution. The solid was collected and rinsed with Et2O and ethyl acetate. The filtrate was concentrated in vacuo, diluted with DCM, and purified by flash chromatography (12-100% EtOAc/isohexane). The fractions containing pure product were concentrated in vacuo and the resulting solid triturated with Et2O and combined with the first batch of solid to give ethyl 4-hydroxy-2-isopropyl-6-oxo-1,6-dihydropyridine-3-carboxylate. MS ESI calc'd. for C11H15NO4 [M+1]+ 226. found 226.

reactant | Malonic acid bis(2,4,6-trichlorophenyl) ester | 3.05 mmol, 1.4 g | ClC1=C(C(=CC(=C1)Cl)Cl)OC(CC(=O)OC1=C(C=C(C=C1Cl)Cl)Cl)=O | C15H6Cl6O4
reactant | ethyl 3-amino-4-methylpent-2-enoate | 3.05 mmol, 480 mg | NC(=CC(=O)OCC)C(C)C | C8H15NO2
solvent | bromobenzene | 5 mL | BrC1=CC=CC=C1 | C6H5Br
solvent | EtOAc Et2O | CCOC(=O)C.CCOCC
product | ethyl 4-hydroxy-2-isopropyl-6-oxo-1,6-dihydropyridine-3-carboxylate | OC=1C(=C(NC(C1)=O)C(C)C)C(=O)OCC | C11H15NO4
